US09056867B2
3-Amino-6-dimethylamino-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide
To a stirring solution of 3-amino-6-bromo-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide (Ex. 7)(50 mg, 0.142 mmol) in dry DMF (5 ml), diethanolamine (37.4 mg, 0.356 mmol) was added. The resulting solution was heated at 100° C. using microwave radiation for 66 hours. The reaction mixture was partitioned between EtOAc (20 ml) and water (20 ml), and the phases separated. The organic phase was washed with brine (10 ml), dried (MgSO4) and concentrated in vacuo to give an orange solid. Purification of the crude product by chromatography on silica eluting with iso-hexane/EtOAc (gradient of 0 to 50% EtOAc) yielded the title compound as a yellow solid.

reactant | 3-amino-6-bromo-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide | 0.142 mmol, 50 mg | N=1NC(=CC1)NC(=O)C1=NC(=C(N=C1N)C(F)(F)F)Br | C9H6BrF3N6O
reactant | diethanolamine | 0.356 mmol, 37.4 mg | N(CCO)CCO | C4H11NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Amino-6-dimethylamino-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide | N=1NC(=CC1)NC(=O)C1=NC(=C(N=C1N)C(F)(F)F)N(C)C | C11H12F3N7O
